US05948819
Synthesis of 2-[2-(2,5-dimethylphenoxymethyl)-phenyl]-2-hydroxy-N-methylacetamide (Compound No. 75)
2-[2-(2,5-Dimethylphenoxymethyl)phenyl]-N-methyl-2-oxoacetamide (0.93 g, 3.1 mmol) was dissolved in methanol (10 ml). Sodium borohydride (0.06 g, 1.6 mmol) was added slowly under ice-cooling. After stirring for 30 minutes, the mixture was neutralized with 1N hydrochloric acid, and extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over sodium sulfate, and the solvent was evaporated to give an oil. The oil was purified by column chromatography on silica gel (eluting with n-hexane - ethyl acetate) to give the desired compound 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-hydroxy-N-methylacetamide (0.85 g, 91%) as white crystals.

reactant | 2-[2-(2,5-Dimethylphenoxymethyl)phenyl]-N-methyl-2-oxoacetamide | 3.1 mmol, 0.93 g | CC1=C(OCC2=C(C=CC=C2)C(C(=O)NC)=O)C=C(C=C1)C | C18H19NO3
reactant | Sodium borohydride | 1.6 mmol, 0.06 g | [BH4-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | 2-[2-(2,5-dimethylphenoxymethyl)phenyl]-2-hydroxy-N-methylacetamide | 0.85 g, 91% | CC1=C(OCC2=C(C=CC=C2)C(C(=O)NC)O)C=C(C=C1)C | C18H21NO3
